US05849920
2,5-Dichloro-6-methoxy-3-trifluoromethylpyridine
10.8 g (0.06 mol) of 30% strength sodium methylate solution were added with stirring at 0°-5° C. in the course of 20 minutes to 15 g (0.06 mol) of 2,3,6-trichloro-5-trifluoromethylpyridine in 200 ml of methyl tert-butyl ether, and stirring was continued for 30 minutes at the same temperature. After the mixture had been heated to 20° C., the fine precipitate which had formed was filtered off with suction and washed using methyl tert-butyl ether. The organic filtrate was washed with water, dried and concentrated, giving 14.3 g (97% of theory) of the title compound of η25D =1.4890 (Table III, No. 3.001).

reactant | sodium methylate | C[O-].[Na+]
reactant | 2,3,6-trichloro-5-trifluoromethylpyridine | 0.06 mol | ClC1=NC(=C(C=C1Cl)C(F)(F)F)Cl | C6HCl3F3N
solvent | methyl tert-butyl ether | 200 ml | C(C)(C)(C)OC | C5H12O
product | 2,5-Dichloro-6-methoxy-3-trifluoromethylpyridine | ClC1=NC(=C(C=C1C(F)(F)F)Cl)OC | C7H4Cl2F3NO
